US07649002B2
1-tert-Butyl 3-methyl (3S,4R)-4-(2,4-difluorophenyl)pyrrolidine-1,3-dicarboxylate
To a solution of methyl (3S,4R)-1-benzyl-4-(2,4-difluorophenyl)pyrrolidine-3-carboxylate, from preparation 30 (1.0 g, 3.01 mmol), 1-methylcyclohexa-1,4-diene (1.25 mL, 11.12 mmol) and di-tert-butyl dicarbonate (0.72 g, 3.31 mmol) in ethanol (10 mL) was added palladium hydroxide on carbon (0.1 g) at room temperature. The resulting mixture was heated under reflux for 4 hours, cooled to room temperature and filtered through Arbocel®. The filtrate was concentrated in vacuo to give the crude residue which was partitioned between ethyl acetate (80 mL) and 10% citric acid solution (5 mL). The phases were separated and the organic layer was washed with brine (60 mL), dried over magnesium sulfate, filtered and concentrated in vacuo to give the desired product as a colourless oil, 940 mg.

reactant | methyl (3S,4R)-1-benzyl-4-(2,4-difluorophenyl)pyrrolidine-3-carboxylate | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)C1=C(C=C(C=C1)F)F)C(=O)OC | C19H19F2NO2
reactant | 1-methylcyclohexa-1,4-diene | 11.12 mmol, 1.25 mL | CC1=CCC=CC1 | C7H10
reactant | di-tert-butyl dicarbonate | 3.31 mmol, 0.72 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | palladium hydroxide on carbon | 0.1 g | [OH-].[OH-].[Pd+2]
product | 1-tert-Butyl 3-methyl (3S,4R)-4-(2,4-difluorophenyl)pyrrolidine-1,3-dicarboxylate | FC1=C(C=CC(=C1)F)[C@H]1[C@@H](CN(C1)C(=O)OC(C)(C)C)C(=O)OC | C17H21F2NO4
